US07378417B2
5-(3-Ethoxy-4-trifluoromethyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid[3-(2-hydroxy-1,1-dimethyl-ethylsulfamoyl)-phenyl]-amide
The title compound was prepared from 5-(3-ethoxy-4-trifluoromethyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.11) and 3-amino-N-(2-hydroxy-1,1-dimethyl-ethyl)-benzenesulfonamide (example B.8) according to general procedure II. Yellow solid. MS (ISP) 646.4 [(M+H+]; mp 268° C.

reactant | 5-(3-ethoxy-4-trifluoromethyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | C(C)OC=1C=C(C=CC1C(F)(F)F)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C(=O)O | C17H11F6N3O3
reactant | 3-amino-N-(2-hydroxy-1,1-dimethyl-ethyl)-benzenesulfonamide | NC=1C=C(C=CC1)S(=O)(=O)NC(CO)(C)C | C10H16N2O3S
product | 5-(3-Ethoxy-4-trifluoromethyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid[3-(2-hydroxy-1,1-dimethyl-ethylsulfamoyl)-phenyl]-amide | OCC(C)(C)NS(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC(=C(C=C2)C(F)(F)F)OCC | C27H25F6N5O5S
